US04049669
5-(2-Aminoethyl)thiomethyl-4-methylthiazole is treated with a hydrochloric acid solution to give 5-(2-aminoethyl)thiomethyl-4-methylthiazole dihydrochloride.

reactant | 5-(2-Aminoethyl)thiomethyl-4-methylthiazole | NCCSCC1=C(N=CS1)C | C7H12N2S2
reactant | hydrochloric acid | Cl | ClH
product | 5-(2-aminoethyl)thiomethyl-4-methylthiazole dihydrochloride | Cl.Cl.NCCSCC1=C(N=CS1)C | InChI=1S/C7H12N2S2.2ClH/c1-6-7(11-5-9-6)4-10-3-2-8;;/h5H,2-4,8H2,1H3;2*1H
